US07163947B2
A solution of tert-butyl N′-(3-amino-7-bromoquinolin-4-yl)hydrazinecarboxylate (37.1 g, 105 mmol) in 315 mL of toluene was treated with trimethyl orthobutyrate (16.7 mL, 105 mmol) and pyridine hydrochloride (0.12 g, 1.05 mmol). The reaction mixture was heated to reflux under an atmosphere of nitrogen. After 4 h, the reaction mixture was cooled to ambient temperature and concentrated under reduced pressure to give a brown oil. The oil was dissolved in 300 mL of CHCl3. The solution was washed with 5% Na2CO3 (100 mL), water (100 mL) and brine (100 mL). The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure to yield a brown foam. The foam was purified by chromatography (SiO2, 100:0 gradient to 95:5 CHCl3:MeOH) to yield 30.1 g of tert-butyl (7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)carbamate as a light brown solid.

reactant | tert-butyl N′-(3-amino-7-bromoquinolin-4-yl)hydrazinecarboxylate | 105 mmol, 37.1 g | NC=1C=NC2=CC(=CC=C2C1NNC(=O)OC(C)(C)C)Br | C14H17BrN4O2
reactant | trimethyl orthobutyrate | 105 mmol, 16.7 mL | C(CCC)(OC)(OC)OC | C7H16O3
solvent | toluene | 315 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridine hydrochloride | 1.05 mmol, 0.12 g | Cl.N1=CC=CC=C1
product | tert-butyl (7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)carbamate | 30.1 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3NC(OC(C)(C)C)=O)CCC | C18H21BrN4O2
